US04018794
By replacing in Example 1, step A, 3-amino-4-benzoyl5-nitrobenzoic acid with 3-amino-4-(4'-chlorobenzoyl)-5-nitrobenzoic acid and following the procedure described, 4-(4'-chlorobenzoyl)-3-hydroxy-5-nitrobenzoic acid is obtained as a hemihydrate with a melting point of 266.5°-267.5° C.

reactant | 3-amino-4-benzoyl5-nitrobenzoic acid | NC=1C=C(C(=O)O)C=C(C1C(C1=CC=CC=C1)=O)[N+](=O)[O-] | C14H10N2O5
reactant | 3-amino-4-(4'-chlorobenzoyl)-5-nitrobenzoic acid | NC=1C=C(C(=O)O)C=C(C1C(C1=CC=C(C=C1)Cl)=O)[N+](=O)[O-] | C14H9ClN2O5
product | 4-(4'-chlorobenzoyl)-3-hydroxy-5-nitrobenzoic acid | ClC1=CC=C(C(=O)C2=C(C=C(C(=O)O)C=C2[N+](=O)[O-])O)C=C1 | C14H8ClNO6
